US05831101
Preparation of 14-methyl-12-oxohexadecanolide
To the enol ether (2.10 g, 8.4 mmol) in CCl4 (20 ml), acetonitrile (20 ml), and water (30 ml) at room temperature was added sodium metaperiodate (6.75 g, 35.3 mmol) followed by ruthenium chloride hydrate (50 mg). The mixture was stirred vigourously and an exotherm was noted (approx 5° C.). Once the exotherm had subsided the dark/opaque solution was checked with TLC (9:1, hexane/ethylacetate) which showed the reaction to be complete after 15 minutes. To the reaction mixture was added a 1:1 mixture of dichloromethane and water (60 ml). The organic fractions were separated and dried and the solvent evaporated under reduced pressure to yield a dark oil. The oil was purified by column chromatography, eluting the product with 10% diethyl ether in pentane. The product is a colourless to pale yellow oil. Yield is 1.64 g (69%).

reactant | water | 30 ml | O | H2O
reactant | sodium metaperiodate | 35.3 mmol, 6.75 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | hexane ethylacetate | CCCCCC.C(C)OC(C)=O
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | water | 60 ml | O | H2O
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | CCl4 | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | ruthenium chloride hydrate | 50 mg | O.[Ru](Cl)(Cl)Cl
product | 14-methyl-12-oxohexadecanolide | CC1CC(CCCCCCCCCCC(=O)OCC1)=O | C17H30O3
